US09416105B2
Preparation of (1S,3S,5S)-2-[(2S)-2-tritylamino-2-(3-hydroxyadamantan-1-yl)acetyl]-2-azabicyclo[3.1.0]hexane-3-carbonitrile
A solution of (1S,3S,5S)-2-[(2S)-2-tritylamino-2-(3-hydroxyadamantan-1-yl)acetyl]-2-azabicyclo[3.1.0]hexane-3-carboxamide (15.0 g) in tetrahydrofuran (150 ml) was mixed with pyridine (12.3 g) and cooled to 0-10° C. Trifluoroacetic anhydride (19.1 g) was added to the reaction mixture slowly over 30 minutes. The reaction mixture was stirred at 0-10° C. for 3 hours. Completion of the reaction was confirmed by HPLC. Aqueous potassium carbonate solution (20%, 240 ml) was added to the reaction mixture over 30 minutes to obtain pH 10-11. Methanol (50 ml) was added, and the reaction mixture was stirred at 25° C. for 3 hours. Completion of the reaction was verified using TLC. The reaction mixture was cooled to 0° C. and stirred for 30 minutes. The solid was filtered and washed with water (2×15 ml). The solid was dried under vacuum at 50-60° C. for 8 hours to give the title compound (10.0 g).

reactant | (1S,3S,5S)-2-[(2S)-2-tritylamino-2-(3-hydroxyadamantan-1-yl)acetyl]-2-azabicyclo[3.1.0]hexane-3-carboxamide | 15.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@H](C(=O)N1[C@H]2C[C@H]2C[C@H]1C(=O)N)C12CC3(CC(CC(C1)C3)C2)O | C37H41N3O3
reactant | pyridine | 12.3 g | N1=CC=CC=C1 | C5H5N
reactant | Trifluoroacetic anhydride | 19.1 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | potassium carbonate | 240 ml | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | Methanol | 50 ml | CO | CH4O
product | (1S,3S,5S)-2-[(2S)-2-tritylamino-2-(3-hydroxyadamantan-1-yl)acetyl]-2-azabicyclo[3.1.0]hexane-3-carbonitrile | 10.0 g, Yield=79% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@H](C(=O)N1[C@H]2C[C@H]2C[C@H]1C#N)C12CC3(CC(CC(C1)C3)C2)O | C37H39N3O2
